US05112998
In 200 ml of benzene were dissolved 5.00 g (14.6 mmoles) of 7α-hydroxypregna-1,4-dien-3-one-20-carbaldehyde and 4.56 g (43.8 mmoles) of 2,2-dimethyl-1,3-propanediol, followed by addition of 100 mg of p-toluenesulfonic acid. The mixture was refluxed for 5 hours, with the byproduct water being constantly removed from the reaction system by means of a Dean-Stark trap. The reaction mixture was cooled to room temperature and washed with aqueous sodium hydrogen carbonate solution. The aqueous layer was extracted with ether-hexane (70:30, v/v) and the extract was combined with the organic layer. This mixture was washed with aqueous sodium chloride solution and dried over magnesium sulfate and the solvent was distilled off under reduced pressure. Finally the residue was purified by silica gel chromatography (eleuent: ethyl acetate-hexane=1:10, v/v) to recover 5.53 g of 20-(5,5-dimethyl-1,3-dioxan-2-yl)pregna-1,4,6-trien-3-one (yield: 92%).

reactant | 7α-hydroxypregna-1,4-dien-3-one-20-carbaldehyde | 14.6 mmoles, 5.00 g | O[C@H]1[C@H]2[C@@H]3CC[C@H](C(C)C=O)[C@]3(CC[C@@H]2[C@]2(C=CC(C=C2C1)=O)C)C | C22H30O3
reactant | 2,2-dimethyl-1,3-propanediol | 43.8 mmoles, 4.56 g | CC(CO)(CO)C | C5H12O2
reactant | water | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)pregna-1,4,6-trien-3-one | 5.53 g, yield: 92% | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=CC4=CC(C=C[C@]4(C)[C@H]3CC[C@]12C)=O)C | C27H38O3
